US06043365
To a solution of β(R)-(hydroxymethyl)-β-(2-fluorophenyl)-propionitrile (210 g, 1.18 mol) in Et2O (200 ml), is added 3,4-dihydro-2H-pyran (225 ml, 2.68 mol) at ambient temperature. The mixture is stirred for 5 minutes and POCl3 (5 mL) is added dropwise. The reaction mixture is stirred for 30 minutes at ambient temperature and then refluxed for 2 hours. The resulting solution is allowed to cool and the solvent is removed in vacuo. The residue is then chromatographed (EtOAc/hexane, 1:4) to give β(R)-[[(tetrahydropyran-2-yl)oxy]methyl]-β-(2-fluorophenyl)-propionitrile as an oil.

reactant | β(R)-(hydroxymethyl)-β-(2-fluorophenyl)-propionitrile | 1.18 mol, 210 g | OC[C@H](CC#N)C1=C(C=CC=C1)F | C10H10FNO
reactant | 3,4-dihydro-2H-pyran | 2.68 mol, 225 ml | O1CCCC=C1 | C5H8O
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | β(R)-[[(tetrahydropyran-2-yl)oxy]methyl]-β-(2-fluorophenyl)-propionitrile | O1C(CCCC1)OC[C@H](CC#N)C1=C(C=CC=C1)F | C15H18FNO2
